US06872718B1
8-tert-butyl-3,5,6,7-tetrahydro-2,2,4,6,6-pentamethyl-2H-furo[2,3-f]indole hydrochloride
7-tert-butyl-5-(2-methyl-2-propenyl)amino-2,2,4-trimethyl-2,3-dihydrobenzofuran (5.75 g, 20 mmol) was dissolved in xylene (60 ml), combined with zinc chloride (6.82 g, 50 mmol) and heated under reflux for 32 hours under argon atmosphere. The reaction mixture was cooled, and combined with a saturated aqueous solution of sodium acetate (100 ml), and the mixture was extracted with ethyl acetate. The extract was washed with 1N sodium hydroxide and saturated brine and dried over sodium sulfate and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1) to obtain an oil, which was treated with a 4N hydrochloric acid ethyl acetate solution and crystallized from ethyl acetate to obtain 2.56 g of the title compound.

reactant | 7-tert-butyl-5-(2-methyl-2-propenyl)amino-2,2,4-trimethyl-2,3-dihydrobenzofuran | 20 mmol, 5.75 g | C(C)(C)(C)C1=CC(=C(C=2CC(OC21)(C)C)C)NCC(=C)C | C19H29NO
reactant | sodium acetate | 100 ml | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid ethyl acetate | 4N | C(C)OC(C)=O.Cl
reactant | xylene | 60 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | zinc chloride | 50 mmol, 6.82 g | [Cl-].[Zn+2].[Cl-]
product | 8-tert-butyl-3,5,6,7-tetrahydro-2,2,4,6,6-pentamethyl-2H-furo[2,3-f]indole hydrochloride | 2.56 g, Yield: 40% | Cl.C(C)(C)(C)C=1C=2CC(NC2C(=C2C1OC(C2)(C)C)C)(C)C | InChI=1S/C19H29NO.ClH/c1-11-12-10-19(7,8)21-16(12)14(17(2,3)4)13-9-18(5,6)20-15(11)13;/h20H,9-10H2,1-8H3;1H
